US04000115
p-methoxyphenyldiazonium hexafluorophosphate
1440 cc. of 5N aqueous hydrochloric acid was charged into a 3000 cc. capacity vessel equipped with a stirrer, thermometer, condenser and addition funnel. 184.5 g. (1.5M) of p-anisidine was added and the mixture stirred at room temperature until complete conversion to the ammonium salt was achieved. The solution was cooled in an ice-methanol bath to -5° C. Diazotization was achieved by adding 184.5 g. (1.52M) of sodium nitrite in 300 ml of water dropwise over a 30-minute period while maintaining the temperature between 0°-5° C. A solution of 244.5 g. (1.5M) of ammonium hexafluorophosphate in 300 ml of water was added to precipitate the hexafluorophosphate salt. The salt was filtered, washed chloride-free and vacuum-dried at 25° C.

reactant | hydrochloric acid | 5N | Cl | ClH
reactant | p-anisidine | 1.5M | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium nitrite | 1.52M | N(=O)[O-].[Na+]
reactant | ammonium hexafluorophosphate | 1.5M | F[P-](F)(F)(F)(F)F.[NH4+]
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | p-methoxyphenyldiazonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.COC1=CC=C(C=C1)[N+]#N | InChI=1S/C7H7N2O.F6P/c1-10-7-4-2-6(9-8)3-5-7;1-7(2,3,4,5)6/h2-5H,1H3;/q+1;-1
